US04464358
2-Amino-6-hydroxy-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid (6 g., 29 mM) was stirred in trifluoroacetic acid (30 ml., 390 mM) at room temperature for 15 min. The mixture was stirred and cooled in an ice-water bath, and trifluoroacetic anhydride (10 ml., 70 mM) was slowly added. The cooling bath was removed and stirring continued for 4 hr. at room temperature. The mixture was evaporated in vacuo to give a gum, which was triturated with petroleum ether (b.p. 60°-80°). The resulting solid was collected by filtration, washed with petroleum ether (b.p. 60°-80°) and dried to give 6-hydroxy-2-trifluoroacetylamino-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid, m.p. 70°-95°, Rf 0.29 (kieselgel 60, ethyl acetate).

reactant | 2-Amino-6-hydroxy-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid | 29 mM, 6 g | NC1(CC2=CC=C(C=C2CC1)O)C(=O)O | C11H13NO3
reactant | trifluoroacetic anhydride | 70 mM, 10 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | 390 mM, 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-hydroxy-2-trifluoroacetylamino-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid | OC=1C=C2CCC(CC2=CC1)(C(=O)O)NC(C(F)(F)F)=O | C13H12F3NO4
